simulator lang=spectre
global 0

ahdl_include "comparator.va"

// Supply
Vdd (vdd 0) vsource dc=1.8
Vss (vss 0) vsource dc=0

// Differential input stimulus: VINP ramps up while VINN ramps down
// This creates a clear threshold crossing around 15ns
Vinp (vinp 0) vsource type=pwl wave=[0n 0.0 10n 0.0 20n 1.8 30n 1.8]
Vinn (vinn 0) vsource type=pwl wave=[0n 1.8 10n 1.8 20n 0.0 30n 0.0]

// DUT instance
XDUT (vdd vss vinp vinn out_p) comparator

// Transient analysis
tran tran stop=30n maxstep=1n

// Save statements for required observables
save vinp vinn out_p
